US08859588B2
Cyclohexanesulfonic acid [2-methyl-6-((2S,3′S)-2-methyl-[1,3′]bipyrrolidinyl-1′-yl)-pyridin-3-yl]-amide
The title compound was synthesized substantially in the same manner as Example 3 by coupling of 2-methyl-6-((2S,3′S)-2-methyl-[1,3′]bipyrrolidinyl-1′-yl)-pyridin-3-ylamine (0.025 g, 0.096 mmol) with cyclohexanesulfonyl chloride (0.053 g, 0.288 mmol) in dichloromethane (3 mL) and pyridine (0.500 mL) to obtain 0.0195 g (50%) of the compound.

reactant | 2-methyl-6-((2S,3′S)-2-methyl-[1,3′]bipyrrolidinyl-1′-yl)-pyridin-3-ylamine | 0.096 mmol, 0.025 g | CC1=NC(=CC=C1N)N1C[C@H](CC1)N1[C@H](CCC1)C | C15H24N4
reactant | cyclohexanesulfonyl chloride | 0.288 mmol, 0.053 g | C1(CCCCC1)S(=O)(=O)Cl | C6H11ClO2S
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | pyridine | 0.500 mL | N1=CC=CC=C1 | C5H5N
product | Cyclohexanesulfonic acid [2-methyl-6-((2S,3′S)-2-methyl-[1,3′]bipyrrolidinyl-1′-yl)-pyridin-3-yl]-amide | CC1=NC(=CC=C1NS(=O)(=O)C1CCCCC1)N1C[C@H](CC1)N1[C@H](CCC1)C | C21H34N4O2S
